US03962281
2.08 g of methyl 2-(3,4-methylenedioxyphenyl)-1-methylthioethyl sulfoxide was dissolved in 20 ml. of 1,2-dimethoxyethane, and with the addition of 1.71 g of cupric chloride dihydrate, the solution was refluxed for 15 minutes. The solvent was removed by evaporation at reduced pressure, and 50 ml. of methylene chloride was added. The insoluble water was removed by filtration. The filtrate was concentrated at reduced pressure, and subjected to column chromatography (silica gel, benzene) to give 722 mg of (3,4-methylenedioxyphenyl)acetaldehyde in a yield of 45%.

reactant | methyl 2-(3,4-methylenedioxyphenyl)-1-methylthioethyl sulfoxide | 2.08 g | C1OC=2C=C(C=CC2O1)CC(SC)S(=O)C | C11H14O3S2
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | (3,4-methylenedioxyphenyl)acetaldehyde | 722 mg, yield of 45% | C1OC=2C=C(C=CC2O1)CC=O | C9H8O3
